US06610707B1
tert-Butyl (2S)-2-(5-benzyl-1,2,4-oxadiazol-3-yl)-1-piperidinecarboxylate (10.59 g) [see Preparation 6] was dissolved in dichloromethane (150 ml) and cooled to 0° C. Hydrogen chloride gas was then bubbled through until the point of saturation. The reaction mixture was then stirred for 30 mins. at 0° C., the solvent was removed under reduced pressure and the product azeotroped with dichloromethane to afford 5-benzyl-3-[(2S)-2-piperidyl]-1,2,4-oxadiazole hydrochloride (8.3 g) as a yellow solid.

reactant | tert-Butyl (2S)-2-(5-benzyl-1,2,4-oxadiazol-3-yl)-1-piperidinecarboxylate | 10.59 g | C(C1=CC=CC=C1)C1=NC(=NO1)[C@H]1N(CCCC1)C(=O)OC(C)(C)C | C19H25N3O3
reactant | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 5-benzyl-3-[(2S)-2-piperidyl]-1,2,4-oxadiazole hydrochloride | 8.3 g | Cl.C(C1=CC=CC=C1)C1=NC(=NO1)[C@H]1NCCCC1 | InChI=1S/C14H17N3O.ClH/c1-2-6-11(7-3-1)10-13-16-14(17-18-13)12-8-4-5-9-15-12;/h1-3,6-7,12,15H,4-5,8-10H2;1H/t12-;/m0./s1
